US05616637
A2b) 1-Cyclohexyloxy-2,2,6,6-tetramethyl-4-acetoxypiperidine
60 g (301 mmol) of 4-acetoxy-2,2,6,6-tetramethylpiperidine are dissolved in 300 ml of cyclohexane under nitrogen in a 1.5 l sulfonation flask fitted with magnetic stirrer, water separator, thermometer and dropping funnel. 4.3 g (30 mmol) of molybdenum oxide are added. 154 g (1.2 mol) of an aqueous 70% solution of t-butyl hydroperoxide are extracted three times with 35 ml of cyclohexane in each case, and the organic phase is dried over sodium sulfate and transferred into the dropping funnel. The reaction mixture is warmed to reflux, and the t-butyl hydroperoxide solution is added dropwise over the course of 2 hours. After a further 2 hours, the elimination of water is complete. The mixture is held at the reflux temperature overnight and is then cooled to 25° C., and the catalyst is filtered off. Ice is added, a little sodium sulfite is added in order to destroy the excess hydroperoxide, and the organic phase is then separated off, washed with water and dried over sodium sulfate, and the solvent is removed on a Rotavap.

reactant | 4-acetoxy-2,2,6,6-tetramethylpiperidine | 301 mmol, 60 g | C(C)(=O)OC1CC(NC(C1)(C)C)(C)C | C11H21NO2
reactant | water | O | H2O
reactant | cyclohexane | 300 ml | C1CCCCC1 | C6H12
catalyst | molybdenum oxide | 30 mmol, 4.3 g | [Mo]=O
product | 1-Cyclohexyloxy-2,2,6,6-tetramethyl-4-acetoxypiperidine | C1(CCCCC1)ON1C(CC(CC1(C)C)OC(C)=O)(C)C | C17H31NO3
